Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Speech disturbance; right face, arm, and leg weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is an ___ year old right handed woman with past medical
history of atrial fibrillation not on anticoagulation whom
presents as transfer from ___ with suspected left MCA
syndrome and consideration of possible thrombectomy. 

Patient's history was obtained after speaking to her neighbor
whom is her health care proxy on the phone. 

Patient's neighbor reports that she had a conversation with
patient on the phone at about 5:00 ___ and patient was in normal
state of health and without dysarthria.

Patient at about 9:30 ___ arrived at neighbor's door and was
signaling for help.  Patient could not speak and had a right
facial droop.  Patient could walk on her own and did not look
unsteady.  

EMS was immediately called and neighbor noticed that the patient
could not reliably follow any directions on both sides of body.

Patient was taken to ___.  Patient's initial images were
of poor quality and it could not be determined if there was
proximal major vessel cutoff.  Patient was transferred to ___
for escalation of care by ground transportation.   

Per neighbor, patient is very independent at baseline and
requires no assistance with activities of daily living. 
Patient's
neighbor had patient's home medications and they are:
Aspirin 81 mg daily 
Metoprolol 25 mg BID 
Torsemide 20 mg daily 
Dorzolamide eye drops, 1 drop in right eye twice daily  
Latanoprost eye drop, 1 drop in right eye twice daily 

Patient's neighbor knew that patient had atrial fibrillation, 
but
did not know why she was not on anticoagulation. 

 
Past Medical History:
Atrial fibrillation not on anticoagulation, reason unknown 
Chronic swelling of her legs
Right eye problems, neighbor did not know issue 

 
Social History:
Patient lives alone in a home.  Patient's husband lives in a
nursing home and has severe alzheimer's disease.  Patient has no
children and no other family.  

Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Neighbor does not know, not pertinent to this admission. 

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: 
Temperature: 97.8
Blood pressure: 149/98
Heart rate: 67
Oxygen saturation: 95% 

General physical examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic:
Mental status: 
Patient alert, crying, appears very frustrated and confused. 
Patient is trying to communicate, but examiner cannot understand
what she is trying to say (broken words). 

Cranial nerves: 
Patient with post surgical fixed right ovoid pupil, left pupil
briskly reactive to light.  EOMI grossly normal, but cannot
formally test.  Facial sensation intact.  Right lower quadrant
facial droop.  Hearing intact.  Patient will not open mouth. 
Shoulders sit symmetrically. 

Motor examination: 
Patient will not comply for formal examination.  Patient's left
side of the body is strongly antigravity.  Patient's right arm
when lifted at the shoulder quickly falls back the bed.  Patient
with antigravity ability to flex at elbow. Patient with right
wrist drop and her fingers are held in flexion.  Of note, the
movement of the right upper extremity is greatly improved from
initial presentation when it appeared densely plegic.  Patient's
right lower extremity is strongly antigravity.    

Sensation: 
Patient signals that she appreciates sensation of crude touch in
upper and lower extremities.  Patient without tactile neglect. 

Coordination:
Could not assess 

Reflexes: 
Patient would not relax for examination.  No pectoral or cross
abductor reflexes.  Ankle reflexes symmetric.  Strong withdrawal
to plantar reflexes.

Gait: 
Deferred.  

DISCHARGE EXAMINATION
=====================
 Vitals: Temp: 98.2 (Tm 98.5), BP: 103/59 (93-120/42-72), HR: 73
(72-88), RR: 18 (___), O2 sat: 96% (92-100), O2 delivery: RA  
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative. Non-fluent aphasia with
impaired comprehension, though able to follow some midline and
appendicular commands, and somewhat improved compared to prior. 

-Cranial Nerves: No BTT in right field OD, though with limited
visual acuity per patient. Face largely symmetric with
activation. Hearing intact to conversation.

-Motor: No pronator drift, able to maintain BUE and BLE against
gravity.

-Sensory: Deferred.

-DTRs: ___.

-Coordination: Deferred.
 
Pertinent Results:
___ 06:25AM BLOOD WBC-6.1 RBC-3.82* Hgb-11.4 Hct-35.7 
MCV-94 MCH-29.8 MCHC-31.9* RDW-16.0* RDWSD-54.9* Plt ___
___ 09:45AM BLOOD ___ PTT-30.0 ___
___ 06:25AM BLOOD Glucose-81 UreaN-11 Creat-0.9 Na-146 
K-4.2 Cl-111* HCO3-20* AnGap-15
___ 09:45AM BLOOD ALT-25 AST-32 LD(LDH)-215 CK(CPK)-64 
AlkPhos-45 TotBili-1.2
___ 04:10AM BLOOD Calcium-8.8 Phos-4.2 Mg-2.4
___ 09:45AM BLOOD GGT-28
___ 09:45AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:45AM BLOOD %HbA1c-5.4 eAG-108
___ 09:45AM BLOOD Triglyc-97 HDL-49 CHOL/HD-3.1 LDLcalc-85
___ 09:45AM BLOOD TSH-3.6
___ 09:45AM BLOOD CRP-2.4

___ 02:18AM URINE Color-Straw Appear-Clear Sp ___
___ 02:18AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 02:18AM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-0

___ 2:18 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 1:28 AM CTA HEAD AND CTA NECK; CT BRAIN PERFUSION 
1. Study is degraded by motion and dental amalgam streak 
artifact, especially limiting evaluation of the posterior fossa. 

2. Within limits of study, no definite acute intracranial 
hemorrhage.  Please note MRI of the brain is more sensitive for 
the detection of acute infarct. 
3. CT perfusion demonstrates increased mean transit time with 
areas of mildly decreased cerebral blood flow within the left 
parietal temporal lobe.  If 
clinically indicated, consider brain MRI for further evaluation. 

4. Decreased distal arborization of the left M3/M4 branches, 
which may 
correlate with the area of decreased cerebral perfusion. 
5. Punctate left expected P1 origin probable infundibulum versus 
approximately 1 mm aneurysm. 
6. Otherwise grossly patent intracranial and cervical carotid 
and vertebral arteries. 
7. 1.5 cm partially calcified inferior left thyroid nodule.  
Please see 
recommendation below. 
8. Nonspecific cervical lymphadenopathy as described, image may 
be reactive, however neoplastic or inflammatory etiologies are 
not excluded on the basis of this examination.  Recommend 
correlation with oncologic history. 
9. Limited imaging lungs demonstrate moderate to severe 
centrilobular 
emphysematous changes with air trapping.  If clinically 
indicated, consider dedicated chest imaging for further 
evaluation. 

___ 6:36 ___ CHEST (PORTABLE AP) 
There is no opacity projecting along the periphery of the right
mid lung which may reflect atelectasis and/or consolidation. 
Patchy retrocardiac opacities likely also reflect atelectasis.
There is no pneumothorax or large pleural effusion.  The size of
the cardiac silhouette is mildly enlarged and there is a 
tortuous
thoracic aorta.  No radiodense foreign object is seen within the
visualized thorax. 

___ 6:36 ___ PORTABLE ABDOMEN 
No radiopaque foreign object is identified within the abdomen or
pelvis.

Portable TTE ___ at 11:04:10 AM      
Mild symmetric left ventricular hypertrophy with preserved 
global
and regional biventricular systolic function. Suggestion of
elevated LV filling pressure and significant diastolic
dysfunction. Mild aortic regurgitation. Moderate to severe 
mitral
regurgitation. Moderate pulmonary hypertension. Possible ASD 
with
left to right flow, a focused study with saline contrast may be
considered for further evaluation if clinically indicated.  

___ 9:41 AM VIDEO OROPHARYNGEAL SWALLOW 
1.  Trace penetration of nectar thick liquids. 
2.  Trace silent aspiration with thin liquids. 

___ 8:50 AM MR HEAD W/O CONTRAST 
1. Multiple foci of acute to subacute left MCA territory 
infarct,
likely thromboembolic given distribution pattern. 
2. Sequelae of probable chronic small vessel ischemic disease. 

 
Brief Hospital Course:
Ms. ___ is an ___ woman with history notable for 
atrial fibrillation (not on anticoagulation), HFpEF, and 
___ transferred from ___ after presenting with 
aphasia and right face, arm, and leg weakness, found to have 
multifocal L MCA ischemic infarcts. Thrombolytics not 
administered due to presentation outside the tPA window, and CT 
imaging of the head and neck otherwise negative for large vessel 
occlusion amenable to thrombectomy. Mechanism of infarction 
accordingly most likely atrial fibrillation not on 
anticoagulation, which, per discussion with Ms. ___ PCP, 
was due to patient preference. Accordingly, anticoagulation 
initiated with apixaban to reduce risk of future strokes, along 
with low-intensity atorvastatin therapy given likely 
cardioembolic mechanism and low atherosclerotic burden on 
imaging.

Hospital course complicated by non-fluent aphasia and 
dysarthria, for which SLP evaluation recommended modified diet.

TRANSITIONAL ISSUES
1. Continued SLP evaluation and advancement of diet as 
indicated.
2. Thyroid ultrasound to evaluate incidentally-noted left 
thyroid nodule.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 85) - () No  
 5. Intensive statin therapy administered? () Yes - (x) No [Low 
atherosclerotic burden and cardioembolic mechanism of stroke]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
 9. Discharged on statin therapy? () Yes - (x) No [Low 
atherosclerotic burden and cardioembolic mechanism of stroke]  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

35 minutes were spent on discharge.
 
Medications on Admission:
1. Aspirin EC 81 mg PO DAILY 
2. Metoprolol Tartrate 25 mg PO BID 
3. Torsemide 20 mg PO DAILY 
4. Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE BID 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE BID 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 (One) tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 (One) tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE BID  
4.  Latanoprost 0.005% Ophth. ___. 1 DROP RIGHT EYE BID  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Torsemide 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Left middle cerebral artery ischemic infarct
2. Atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation of speech disturbance and weakness on your right 
side. CT and MRI scans of your head and neck showed that your 
symptoms were due to a stroke. It is likely that your stroke was 
due to a blood clot arising from your atrial fibrillation, so we 
started you on a blood thinner (apixaban/Eliquis) to reduce your 
risk of future strokes.

Please follow up with your primary care provider within one week 
of discharge from your acute rehabilitation facility. Please 
also follow up with a neurologist within the next ___ months; 
your primary care provider can help refer you to a neurologist.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___